US07557100B2
Step 2: 2-(2,6-Dimethyl-morpholin-4-yl)-3,4-difluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde.
A solution of 5-Bromo-2-(2,6-dimethyl-morpholin-4-yl)-3,4-difluoro-benzaldehyde (11.6 g, 34.9 mmol) and bis-(pinacolato)diboron (9.3 g, 36.7 mmol) in anhydrous 2-methyl THF (120 mL) was treated with potassium acetate (10 g, 105 mmol) and degassed with argon for 25 minutes. The catalyst Pd(PCy3)2Cl2 (1 g, 1.4 mmol) was then added to the reaction mixture and heated to 80° C. overnight. The reaction was cooled to room temperature and the solids were filtered and washed with THF. The combined filtrate washings were concentrated and dissolved in warm methanol and cooled in the refrigerator overnight. The solids that formed were filtered, washed with cold methanol, and dried to give 4.2 g of a yellow solid.

reactant | 5-Bromo-2-(2,6-dimethyl-morpholin-4-yl)-3,4-difluoro-benzaldehyde | 34.9 mmol, 11.6 g | BrC=1C(=C(C(=C(C=O)C1)N1CC(OC(C1)C)C)F)F | C13H14BrF2NO2
reactant | bis-(pinacolato)diboron | 36.7 mmol, 9.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 105 mmol, 10 g | C(C)(=O)[O-].[K+]
product | 2-(2,6-Dimethyl-morpholin-4-yl)-3,4-difluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 4.2 g | CC1CN(CC(O1)C)C1=C(C=O)C=C(C(=C1F)F)B1OC(C(O1)(C)C)(C)C | C19H26BF2NO4
